US07253196B2
2-[(2-chlorophenyl)amino]-5-ethyl-1,3-thiazol-4(5H)-one
Synthesis was performed from N-(2-chlorophenyl)thiourea and 2-bromo-butyric acid according to Method C1.

reactant | N-(2-chlorophenyl)thiourea | ClC1=C(C=CC=C1)NC(=S)N | C7H7ClN2S
reactant | 2-bromo-butyric acid | BrC(C(=O)O)CC | C4H7BrO2
product | 2-[(2-chlorophenyl)amino]-5-ethyl-1,3-thiazol-4(5H)-one | ClC1=C(C=CC=C1)NC=1SC(C(N1)=O)CC | C11H11ClN2OS
